US06417212B1
B. 3-Propyl-4-[2-(5-methyl-2-biphenyl-4-yl-oxazole-4-yl)ethoxy]phenol
A solution of 4-[2-(4-benzyloxy-2-propylphenoxy)ethyl]-5-methyl-2-phenyloxazole (3.16 mmol) in ethanol (100 mL) was treated with 5% Pd/C (160 mg) and hydrogen (60 psi) at ambient temperature for 18 h. The mixture was filtered and concentrated in vacuo to give a tan solid.

reactant | 4-[2-(4-benzyloxy-2-propylphenoxy)ethyl]-5-methyl-2-phenyloxazole | 3.16 mmol | C(C1=CC=CC=C1)OC1=CC(=C(OCCC=2N=C(OC2C)C2=CC=CC=C2)C=C1)CCC | C28H29NO3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | Pd/C | 160 mg | [Pd] | Pd
product | 3-Propyl-4-[2-(5-methyl-2-biphenyl-4-yl-oxazole-4-yl)ethoxy]phenol | C(CC)C=1C=C(C=CC1OCCC=1N=C(OC1C)C1=CC=C(C=C1)C1=CC=CC=C1)O | C27H27NO3
